US05017604
A solution of ethyl 2-methyl-3-nitro-β-oxobenzenepropanoate (10.0 g, 39.7 mmol) in 100 mL of 30% water/trifluoroacetic acid is heated at reflux for 5 hours. The reaction mixture is cooled to room temperature, diluted with water (100 mL), and extracted with ether. The organic layer is washed with water, saturated aqueous sodium bicarbonate, and brine. Evaporation of the organic layer, followed by recrystallization of the residue gives 1-(2-methyl-3-nitrophenyl)ethanone (4.8 g, 67%), mp=49-51° C.

reactant | ethyl 2-methyl-3-nitro-β-oxobenzenepropanoate | 39.7 mmol, 10.0 g | CC1=C(C=CC=C1[N+](=O)[O-])C(CC(=O)OCC)=O | C12H13NO5
solvent | water trifluoroacetic acid | 100 mL | O.FC(C(=O)O)(F)F
solvent | water | 100 mL | O | H2O
product | 1-(2-methyl-3-nitrophenyl)ethanone | 4.8 g, 67% | CC1=C(C=CC=C1[N+](=O)[O-])C(C)=O | C9H9NO3
